US08445679B2
ethyl 7-o-tolyl-1H-indole-2-carboxylate
To a mixture of ethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-2-carboxylate (Paul et al. J. Am. Chem. Soc. 2006, 128, 15552-15553) (1.6 g), tri-(t-butyl)phosphonium tetrafluoroborate (0.074 g), tris(dibenzylideneacetone)dipalladium(0) (0.116 g) and cesium fluoride (2.313 g) was added ortho-iodotoluene (0.781 ml), then dioxane (200 ml) and methanol (20 ml). The reaction mixture was immediately purged with nitrogen and stirred at room temperature for 2 hours. Additional amounts of (dibenzylideneacetone)dipalladium(0) (0.116 g), ortho-iodotoluene (0.781 ml), CsF (2.313 g), and tri-(t-butyl)phosphonium tetrafluoroborate (0.074 g) were added at the same time. The resulting solution was stirred at room temperature overnight. The insoluble material was filtered off and the filtrate was concentrated and the residue was purified by flash chromatography, eluting with 0-100% dichloromethane in hexane to provide the title compound.

reactant | ethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-2-carboxylate | 1.6 g | CC1(OB(OC1(C)C)C=1C=CC=C2C=C(NC12)C(=O)OCC)C | C17H22BNO4
reactant | tri-(t-butyl)phosphonium tetrafluoroborate | 0.074 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | cesium fluoride | 2.313 g | [F-].[Cs+]
reactant | ortho-iodotoluene | 0.781 ml | IC1=C(C=CC=C1)C | C7H7I
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.116 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | ethyl 7-o-tolyl-1H-indole-2-carboxylate | C1(=C(C=CC=C1)C=1C=CC=C2C=C(NC12)C(=O)OCC)C | C18H17NO2
